US04304922
250 g of the following mixture were introduced into a 0.7 liter autoclave: 2×10-3 % by weight of PdCl2, 4% by weight of FeOCl, 14.8% by weight of a bis-urea of 2,4-diamino toluene and 2-amino-4-nitrotoluene and 81% by weight of ethanol. The nitro groups of the urea used are oxidizing agents for the oxycarbonylation of the urea function. 120 bar of carbon monoxide were forced in at room temperature. The mixture was allowed to react for two hours at 180° C. The bis-urea was converted quantitatively. The bis-urethane of 2,4-diisocyanatotoluene was obtained with a selectivity of 50 mol % in addition to 10 mol % of isomeric aminourethanes.

reactant | 2,4-diamino toluene | NC1=C(C=CC(=C1)N)C | C7H10N2
reactant | 2-amino-4-nitrotoluene | NC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | urea | NC(=O)N | CH4N2O
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | C(C)O | C2H6O
catalyst | PdCl2 | Cl[Pd]Cl
product | 2,4-diisocyanatotoluene | N(=C=O)C1=C(C=CC(=C1)N=C=O)C | C9H6N2O2
